US07569579B2
Preparation 11B: 1,1-dimethylethyl [((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]carbamate
To a solution of [((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]amine (12.6 g, 47.13 mmol, 1 eq), accessed via the method of 4B, and triethylamine (5.25 g, 51.8 mmol, 1.1 eq) in 200 mL DCM cooled to 0° C. was added di(tert-butyl) dicarbonate (10.79 g, 49.48 mmol, 1.05 eq). The resultant mixture was stirred 2 h at 0° C. followed by 16 h at ambient temperature. The reaction mixture was diluted with DCM, washed successively with saturated NaHCO3 and brine, dried over MgSO4, filtered and concentrated to give the title compound (16.6 g, 45.17 mmol, 96%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.42-7.14 (m, 10H), 4.50 (m, 1H), 4.35-4.25 (m, 2H), 3.50-3.45 (m, 1H), 3.21-3.17 (m, 1H), 3.10-3.05 (m, 1H), 3.00-2.95 (m, 1H), 1.36 (s, 9H), 1.07-1.04 (m, 1H), 0.82-0.798(m, 1H). ES-LCMS m/z 368.2 (M+H).

reactant | [((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]amine | 47.13 mmol, 12.6 g, 1 eq | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CN | C18H21NO
reactant | triethylamine | 51.8 mmol, 5.25 g, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | di(tert-butyl) dicarbonate | 49.48 mmol, 10.79 g, 1.05 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl [((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methyl]carbamate | 45.17 mmol, 16.6 g, 96% | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CNC(OC(C)(C)C)=O | C23H29NO3
